US06476040B1
Preparation of 3-[-(trimethylsilyl)ethynyl]aniline
A mixture of the nitro compound, 3-[(trimethylsilyl)ethynyl]nitrobenzene, prepared as described above (0.86 g, 3.92 mmol) in 2-propanol (30 mL) was degassed with nitrogen and treated with 5% platinum on alumina (268 mgs). The mixture was shaken under an atmosphere of hydrogen (30 psi) on a Parr shaker apparatus for 22 hours. The reaction mixture was filtered through a short pad of Celite™ (diatamaceous earth) and concentrated by evaporation to give an oil which was dried in vacuo overnight to give the title product (692 mg, 93%) as a yellow brown oil.

reactant | 3-[(trimethylsilyl)ethynyl]nitrobenzene | C[Si](C)(C)C#CC=1C=C(C=CC1)[N+](=O)[O-] | C11H13NO2Si
solvent | 2-propanol | 30 mL | CC(C)O | C3H8O
product | 3-[-(trimethylsilyl)ethynyl]aniline | 692 mg, 93% | C[Si](C)(C)C#CC=1C=C(N)C=CC1 | C11H15NSi
